US08871790B2
Compound 16.1. N2-(2-Methoxyethyl)-N2-methyl-5-nitropyridine-2,4-diamine
A solution of 2-chloro-5-nitropyridin-4-amine (500 mg, 2.88 mmol, 1.00 equiv), triethylamine (1.167 g, 11.53 mmol, 4.00 equiv), and (2-methoxyethyl)(methyl)amine (514 mg, 5.77 mmol, 2.00 equiv) in DMF (20 mL) was stiffed in a sealed tube at 55° C. behind a blast shield overnight. After cooling to room temperature, the mixture was diluted with 100 mL of water and extracted with 3×150 mL of ethyl acetate. The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure to yield 723 mg (crude) of the title compound as a dark red oil.

reactant | 2-chloro-5-nitropyridin-4-amine | 2.88 mmol, 500 mg, 1.00 equiv | ClC1=NC=C(C(=C1)N)[N+](=O)[O-] | C5H4ClN3O2
reactant | triethylamine | 11.53 mmol, 1.167 g, 4.00 equiv | C(C)N(CC)CC | C6H15N
reactant | (2-methoxyethyl)(methyl)amine | 5.77 mmol, 514 mg, 2.00 equiv | COCCNC | C4H11NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | N2-(2-Methoxyethyl)-N2-methyl-5-nitropyridine-2,4-diamine | COCCN(C1=NC=C(C(=C1)N)[N+](=O)[O-])C | C9H14N4O3
